US04081537
At room temperature, 800 mg. of 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one oxime in 6 ml. of pyridine is agitated for 2.5 hours with 3.5 ml. of enanthic acid anhydride. The solution is diluted with benzene and worked up analogously to Example 29. After chromatographing the crude product on silica gel with acetone-hexane, 380 mg. of 17β-acetoxy-17α-ethynyl-3-heptanoyloximino-18-methyl-4,15-estradiene is obtained.

reactant | 17β-acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one oxime | C(C)(=O)O[C@@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=NO)C#C | C23H29NO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | enanthic acid anhydride | C(CCCCCC)(=O)OC(CCCCCC)=O | C14H26O3
reactant | acetone hexane | CC(=O)C.CCCCCC
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 17β-acetoxy-17α-ethynyl-3-heptanoyloximino-18-methyl-4,15-estradiene | C(C)(=O)O[C@@]1([C@]2(C(C)=NO)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)C(CCCCCC)=O)C#C | C30H41NO4
